US06586617B1
Synthesis of 2′-Cyano-N-ethyl-4′-nitro-p-toluenesulfonanilide (Compound No. 420)
To a suspension of sodium hydride (60%, 0.12 g (3.00 mmol)) in 3.0 ml of DMF, 2′-cyano-4′-nitro-p-toluenesulfonanilide (0.80 g (2.52 mmol)) was added with′stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, diethyl sulfate (0.40 ml (3.05 mmol)) was added dropwise and the mixture was heated at 80° C. for 2 hours and at 100° C. for 2 hours with stirring. The reaction mixture was then cooled to room temperature, poured into water and extracted with diethyl ether. The extract was washed three times with 1% aqueous sodium hydroxide solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:2) as eluent, to give 0.23 g (26%) of the title compound as white crystals.

reactant | sodium hydride | 3.00 mmol, 0.12 g | [H-].[Na+]
reactant | 2′-cyano-4′-nitro-p-toluenesulfonanilide | 2.52 mmol, 0.80 g | C(#N)C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)[N+](=O)[O-] | C14H11N3O4S
reactant | diethyl sulfate | 3.05 mmol, 0.40 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 2′-Cyano-N-ethyl-4′-nitro-p-toluenesulfonanilide | 0.23 g, 26% | C(#N)C1=C(N(S(=O)(=O)C2=CC=C(C=C2)C)CC)C=CC(=C1)[N+](=O)[O-] | C16H15N3O4S
